* source FILTR_SR
X_U1         N00994 N00288 N00862 N00795 OUT TL061/301/TI
V_V3         N00862 0 15Vdc
R_R1         IN N00261  10k  
R_R6         0 N00261  1.57k  
R_R5         0 N00994  1k  
V_V1         IN 0 DC 0Vdc AC 1Vac 
R_R3         OUT N00288  120k  
C_C2         N00261 N00288  3.10n  
C_C4         N00261 OUT  3.10n  
V_V2         0 N00795 15Vdc
